* C:\Users\Sony\Documents\GitHub\TC_TP2\Ej1\simulacion_a_caso1_impedanciaEntrada.asc
XU1 0 N001 VCC -VCC Vout LM324
V1 VCC 0 15
V2 0 -VCC 15
V3 N002 0 AC 1
R1 N001 Vin {Res1}
R2 Vout N001 {Res2}
R3 0 N001 {Res3}
R4 0 Vout {Res4}
R5 Vin N002 100k
C2 0 Vin 100p
R6 Vin 0 1Meg
C1 N002 0 100p
R7 N002 0 1Meg
;tran 3 startup
.lib LM324.ti.lib
.ac dec 100 100000 10000000
.param Res1=50000
.param Res2=5000
.param Res3=Res1
.param Res4=100000
;dc V3 -1.5 2 0.01
.backanno
.end
