* C:\Users\rochi\Google Drive\Materias\Teoría de circuitos\TPs\TC_TP2\Ej2\Spice\tc_tp2_ej2.asc
V1 Vcc+ 0 15V
V2 0 Vcc- 15V
R1 N003 0 {mc{2k2, tola}}
R2 Vout N003 {mc{150k, tola}}
R3 N001 N002 {mc{100k, tola}}
V3 N002 0 AC 1V Rser=50
XU1 N001 N003 Vcc+ Vcc- Vout LM833#0
C2 Vcc- 0 100n
C3 Vcc+ 0 100n
C N001 0 {mc{10p, tola}}
R4 N001 0 {mc{10meg, tola}}
R N002 0 {mc{10meg, tola}}
C7 N002 0 {mc{10p, tola}}
R5 0 Vout {mc{10meg, tola}}
C4 0 Vout {mc{10p, tola}}
C1 N001 N003 {mc{12p,tola}}
.inc "LM833.lib"
.ac dec 1000 1k 1meg
;tran 0 5ms 0
.param tola=0.20
.param tolb = 0.00
* .step param run 1 100 1
;dc dec V3 10 10meg 100
.backanno
.end
